US07947676B2
3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-acetylpiperazine to give the title compound in 46% yield; NMR Spectrum: 1.96 (s, 3H), 2.44 (t, 2H), 2.50 (hidden by DSMO, 2H), 2.83 (t, 2H), 3.37-3.41 (m, 4H), 4.43 (t, 2H), 5.28 (s, 2H), 7.24 (d, 1H), 7.37 (t, 1H), 7.55-7.58 (m, 2H), 7.86-7.91 (m, 2H), 8.29 (s, 1H), 8.46 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 523 (MH+).

reactant | 3-(2-chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C19H16Cl2N6O2
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 3-[2-(4-acetylpiperazin-1-yl)ethoxy]-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 46% yield | C(C)(=O)N1CCN(CC1)CCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)Cl | C25H27ClN8O3
